US07241785B2
A mixture of methyl (3-hydroxy-1-methyl-1H-pyrazol-4-yl)acetate (255 mg), 5-chloromethyl-2-(2-phenyl-4-thiazolylmethoxy)pyridine (475 mg), potassium carbonate (415 mg) and N,N-dimethylformamide (10 ml) was stirred at 60° C. for 5 hrs. The reaction mixture was poured into water and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and methyl [1-methyl-3-[6-(2-phenyl-4-thiazolylmethoxy)-3-pyridylmethoxy]-1H-pyrazol-4-yl]acetate (581 mg, yield 86%) was obtained as colorless crystals from a fraction eluted with ethyl acetate-hexane (2:1, volume ratio). The crystals were recrystallized from ethyl acetate-hexane. melting point: 85–86° C.

reactant | methyl (3-hydroxy-1-methyl-1H-pyrazol-4-yl)acetate | 255 mg | OC1=NN(C=C1CC(=O)OC)C | C7H10N2O3
reactant | 5-chloromethyl-2-(2-phenyl-4-thiazolylmethoxy)pyridine | 475 mg | ClCC=1C=CC(=NC1)OCC=1N=C(SC1)C1=CC=CC=C1 | C16H13ClN2OS
reactant | potassium carbonate | 415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | methyl [1-methyl-3-[6-(2-phenyl-4-thiazolylmethoxy)-3-pyridylmethoxy]-1H-pyrazol-4-yl]acetate | 581 mg, yield 86% | CN1N=C(C(=C1)CC(=O)OC)OCC=1C=NC(=CC1)OCC=1N=C(SC1)C1=CC=CC=C1 | C23H22N4O4S
